US07645776B2
4-Methanesulfonyl-piperazine-1,2-dicarboxylic acid 1-tert-butyl ester
10 mmol of Piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester were dissolved in 20 ml methylenchloride. 1.05 eq of DIPEA and mesylchloride were added. The reaction mixture was stirred at room temperature for 30 min. The product was extracted from etylacetate/water. The crude material was redissolved in methanol and treated with 2N NaOH. The reaction mixture was stirred at room temperature for 2 h. The mixture was neutralized with HCl and the product isolated via extraction from ethylacetate/water.

reactant | Piperazine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 10 mmol | COC(=O)C1N(CCNC1)C(=O)OC(C)(C)C | C11H20N2O4
reactant | DIPEA | 1.05 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | mesylchloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | methylenchloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Methanesulfonyl-piperazine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C)C(=O)O | C11H20N2O6S
